US07696240B2
1-Benzo[b]thiophen-3-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 3-chloromethyl-benzo[b]thiophene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 306.4 ([M−H]−).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 3-chloromethyl-benzo[b]thiophene | ClCC=1C2=C(SC1)C=CC=C2 | C9H7ClS
product | 1-Benzo[b]thiophen-3-ylmethyl-1H-indole-2-carboxylic acid | S1C2=C(C(=C1)CN1C(=CC3=CC=CC=C13)C(=O)O)C=CC=C2 | C18H13NO2S
